US04925838
To a suspension of sodium borohydride (1.81 g) in tetrahydrofuran (50 ml) was dropwise added boron trifluoride etherate (23.4 ml) under ice-cooling and the mixture was stirred at the same temperature for 15 minutes. To this solution was added a solution of (2S,4R)-4-hydroxy-2-(4-methyl-2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (9.37 g) in tetrahydrofuran (50 ml) under ice-cooling and the mixture was stirred at ambient temperature overnight. To the reaction mixture was dropwise added methanol (30 ml) and the mixture was filtered. The filtrate was evaporated in vacuo. The resulting residue was dissolved in methanol (100 ml) and concentrated hydrochloric acid (5 ml) and the solution was allowed to stand at ambient temperature for 3 hours. The reaction mixture was evaporated in vacuo and dissolved in ethyl acetate (300 ml). The solution was washed successively with saturated aqueous sodium hydrogen carbonate and aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-hydroxy-2-(4-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (4.31 g).

reactant | sodium borohydride | 1.81 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 23.4 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-4-hydroxy-2-(4-methyl-2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 9.37 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NC(C1=O)C)=O | C17H20N4O7
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-hydroxy-2-(4-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.31 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NC(C1)C)=O | C17H22N4O6
